US06239160B1
Step 2: 3-Ethoxycarbonyl-5-(4-trifluoromethyl-3-pyridyl)-1,2,4-oxadiazole
20 g of ethyl 2-amino-2-(4-trifluormethyl-3-pyridinecarbonyloxyimino)-acetate are dissolved in 200 ml of a mixture of xylene and toluene and admixed with 5 g of Amberlyst 15. The mixture is boiled at 125-130° C. for 6 h using a Dean-Stark apparatus. After the reaction has ended, the mixture is cooled and admixed with a small amount of diethyl ether. The mixture is filtered with suction through a glass filter frit, and the solution is then concentrated. This gives 15.8 g of the product as a yellow oil.

reactant | ethyl 2-amino-2-(4-trifluormethyl-3-pyridinecarbonyloxyimino)-acetate | 20 g | NC(C(=O)OCC)=NOC(=O)C=1C=NC=CC1C(F)(F)F | C11H10F3N3O4
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Ethoxycarbonyl-5-(4-trifluoromethyl-3-pyridyl)-1,2,4-oxadiazole | C(C)OC(=O)C1=NOC(=N1)C=1C=NC=CC1C(F)(F)F | C11H8F3N3O3
